US04220751
Urea/2-methylpentanal (molar ratio 1:4) Resin
A mixture of 800 parts of 2-methylpentanal, 800 parts of xylene and 120 parts of urea is heated to the boil in a stirred apparatus of the type described in Example 1, and 50 parts of 75% strength sulfuric acid are added dropwise. The mixture is then stirred at the boil and the water formed (84 parts) is removed via the water separator. The condensation is complete after about 3 hours. The reaction mixture is neutralized with 50% strength sodium hydroxide solution and stirred for a further hour at the boil, whilst removing water. 60 Parts of 30% strength sodium methylate solution in methanol are then added to the contents of the flask and the mixture is again stirred for 1 hour at the boil. It is then cooled to 60° C., neutralized to pH 7 with 75% strength sulfuric acid and washed with twice 1,000 parts of water. After removing the wash water, the xylene solution is evaporated under reduced pressure (20-25 mm Hg) until the temperature in the flask reaches 175° C.

reactant | 2-methylpentanal | CC(C=O)CCC | C6H12O
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
reactant | urea | NC(=O)N | CH4N2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | Urea 2-methylpentanal | NC(=O)N.CC(C=O)CCC | InChI=1S/C6H12O.CH4N2O/c1-3-4-6(2)5-7;2-1(3)4/h5-6H,3-4H2,1-2H3;(H4,2,3,4)
